US09302991B2
<Step-2>:(R)—N-(1-(3-chloro-4-(2,2-difluoroethoxy)-5-methylphenyl)ethyl)-2-methyl propane-2-sulfinamide (single diastereomer)
The title compound is prepared in 93% yield (0.85 g, yellow oil) from 1-(3-chloro-4-(2,2-difluoroethoxy)-5-methylphenyl)ethanone (0.65 g, 2.61 mmol, Step-1) and (R)-2-methylpropane-2-sulfinamide by the similar manner in Step-4 of Amine-1.

reactant | 1-(3-chloro-4-(2,2-difluoroethoxy)-5-methylphenyl)ethanone | 2.61 mmol, 0.65 g | ClC=1C=C(C=C(C1OCC(F)F)C)C(C)=O | C11H11ClF2O2
reactant | (R)-2-methylpropane-2-sulfinamide | CC(C)(C)[S@@](=O)N | C4H11NOS
product | (R)—N-(1-(3-chloro-4-(2,2-difluoroethoxy)-5-methylphenyl)ethyl)-2-methyl propane-2-sulfinamide | 93% yield | ClC=1C=C(C=C(C1OCC(F)F)C)C(C)N[S@](=O)C(C)(C)C | C15H22ClF2NO2S
